US05821387
A solution of 1-naphthylaldehyde (624.8 g, 4.0 mol), nitroethane (300.0 g, 4 mol) and n-butylamine (14.8 g, 0.20 mol) was refluxed in ethanol (400 mL) for 24 hours. The mixture was cooled, diluted with methanol (200 mL), and filtered to give 767 g (90% yield) of 1-naphthyl-2-nitropropene. Upon standing, an additional 60 g (97% total yield) of 1-naphthyl-2-nitropropene crystallized from solution.

reactant | 1-naphthylaldehyde | 4.0 mol, 624.8 g | C1=CC=C2C(=C1)C=CC=C2C=O | C11H8O
reactant | nitroethane | 4 mol, 300.0 g | [N+](=O)([O-])CC | C2H5NO2
solvent | ethanol | 400 mL | C(C)O | C2H6O
solvent | methanol | 200 mL | CO | CH4O
catalyst | n-butylamine | 0.20 mol, 14.8 g | C(CCC)N | C4H11N
product | 1-naphthyl-2-nitropropene | 767 g, 90% yield | C1(=CC=CC2=CC=CC=C12)C=C(C)[N+](=O)[O-] | C13H11NO2
